US05432169
3β-(2- Aminoethoxy)-17β-(3-furyl)-5β-androstan-14β-ol (I-aa)
To a solution of 0.50 g of 3β-(2-phthalimidoethoxy)-17β-(3-furyl)-5β-androstan-14β-ol in 50 ml of ethanol (96%) 0.19 g of hydrazine hydrate were added at room temperature. The mixture was kept at reflux for 4 hrs, then 10 ml of water were added and the ethanol distilled under reduced pressure. The residue was extracted with methylene chloride, the organic solution was washed with water, dried over anhydrous sodium sulfate and evaporated to dryness under reduced pressure. The crude residue was purified by flash-chromatography (SiO2) using methylene chloride/methanol 90/10 as eluant to give 0.35 g of the title compound (I-aa) as a white solid.

reactant | 3β-(2-phthalimidoethoxy)-17β-(3-furyl)-5β-androstan-14β-ol | 0.50 g | C1(C=2C(C(N1CCO[C@@H]1C[C@H]3CC[C@H]4[C@]5(CC[C@@H]([C@@]5(C)CC[C@@H]4[C@]3(CC1)C)C1=COC=C1)O)=O)=CC=CC2)=O | C33H41NO5
reactant | hydrazine hydrate | O.NN
reactant | water | 10 ml | O | H2O
solvent | ethanol | 50 ml, 0.19 g | C(C)O | C2H6O
product | 3β-(2- Aminoethoxy)-17β-(3-furyl)-5β-androstan-14β-ol | 0.35 g | NCCO[C@@H]1C[C@H]2CC[C@H]3[C@]4(CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)C1=COC=C1)O | C25H39NO3
